US03966737
75 G. of 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin are heated together with 150 ml. of N-methyl-piperazine at 130° for 10 minutes. Thereafter, the mixture is cooled to 40°, mixed with ice, benzene and aqueous sodium hydroxide solution and again mixed well. The benzene phase is acidified with 6N hydrochloric acid and maintained in an ice bath for 30 minutes. The precipitate is filtered, made alkaline with aqueous sodium hydroxide solution and taken up in benzene. The benzene phase is dried over sodium sulfate and evaporated, whereby 1-(8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin-10-yl)-4-methyl-piperazine is formed and is treated with maleic acid and the corresponding maleate is formed. The maleate has a melting point of 173°-174°.

reactant | 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin-10-yl)-4-methyl-piperazine | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)C)C1 | C20H23FN2S
